US04110447
A solution of 27.5 g of 3-(4'-chloro-4-biphenylyl)butyramide [m.p. 185° - 187°; obtainable from p-chlorobiphenyl via 4-acetyl-4'-chlorobiphenyl (m.p. 100° - 103°), 3-(4'-chloro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester (m.p. 72°-74°) and 3-(4'-chloro-4-biphenylyl)-butyric acid (m.p. 154°-156°)] in 300 ml of THF is added dropwise, while stirring, to a solution of 4.6 g of diborane in 50 ml of THF, and the mixture is boiled for two hours, cooled and treated with 25% hydrochloric acid. It is then poured into water and worked up with sodium hydroxide solution and ethyl acetate to give 3-(4'-chloro-4-biphenylyl)-butylamine. Hydrochloride, m.p. 256°-259°.

reactant | 3-(4'-chloro-4-biphenylyl)butyramide | 27.5 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(=O)N)C | C16H16ClNO
reactant | diborane | 4.6 g | B#B | B2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(4'-chloro-4-biphenylyl)-butylamine. Hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)C | InChI=1S/C16H18ClN.ClH/c1-12(10-11-18)13-2-4-14(5-3-13)15-6-8-16(17)9-7-15;/h2-9,12H,10-11,18H2,1H3;1H
